US05204366
Preparation of DL-2.5-Dioxo-α-isobutyl-3',5'-dichloro3-pyrroline-1-acetanilide
1-(3-Dimethylaminopropyl)-3-ethyl-carbodiimide (3.5 g, 0.0182 mol) is added to a suspension of DL-2,5-dioxo-α-isobutyl-3-pyrroline-1-acetic acid (3.5 g, 0.0166 mol) in tetrahydrofuran. The reaction mixture is stirred for 30 minutes, treated with 3,5-dichloroaniline (2.69 g, 0.0166 mol) under nitrogen, stirred at room temperature for 12 hours and poured into water. The mixture is extracted with methylene chloride. The extracts are combined and concentrated in vacuo to give a residue. Flash chromatography using hexane/ethyl acetate (80/20) as eluent on silica gel of the residue yields the title compound as a pale yellow solid (0.97 g, 16%, mp 150.5° C.), identified by 1HNMR CIMS and IR analysis.

reactant | 1-(3-Dimethylaminopropyl)-3-ethyl-carbodiimide | 0.0182 mol, 3.5 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | 2,5-dioxo-α-isobutyl-3-pyrroline-1-acetic acid | 0.0166 mol, 3.5 g | O=C1N(C(C=C1)=O)C(C(=O)O)CC(C)C | C10H13NO4
reactant | 3,5-dichloroaniline | 0.0166 mol, 2.69 g | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 2.5-Dioxo-α-isobutyl-3',5'-dichloro3-pyrroline-1-acetanilide | 0.97 g, 16% | O=C1N(C(C=C1)=O)C(C(=O)NC1=CC(=CC(=C1)Cl)Cl)CC(C)C | C16H16Cl2N2O3
